US05780498
A solution of N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosine methyl ester (253 mg, 0.74 mmol) (prepared from (D)-tyrosine following the procedure described in example 55), Ph3Bi(OAc)2 [triphenylbismuth diacetate] (895 mg, 1.6 mmol) (prepared according to the literature procedure; H. Brunner, U. Obermann, and P. Winner, Organometallics 1989, 8, 821-826), and Cu powder (43 mg, 0.68 mmol) in methylene chloride (15 ml) is stirred at room temperature under nitrogen atmosphere overnight. This reaction mixture is concentrated in vacuo and the crude material is chromatographed on silica with hexane/ethylacetate (3:1) to give N-(3,5-dimethylbenzoyl)-N-methyl-O-phenyl-(D)-tyrosine methyl ester as a colorless oil. Hydrolysis of the methyl ester obtained above (294 mg, 0.70 mol) by lithium hydroxide hydrate (31 mg, 0.74 mol) gives a corresponding acid.

reactant | N-(3,5-dimethylbenzoyl)-N-methyl-(D)-tyrosine methyl ester | 0.74 mmol, 253 mg | COC([C@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)O)=O | C20H23NO4
reactant | (D)-tyrosine | N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(3,5-dimethylbenzoyl)-N-methyl-O-phenyl-(D)-tyrosine methyl ester | COC([C@H](N(C)C(C1=CC(=CC(=C1)C)C)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C26H27NO4
